Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine / Augmentin / Topamax
 
Attending: ___
 
___ Complaint:
left breast swelling and pain
 
Major Surgical or Invasive Procedure:
Evacuation of hematoma 

 
History of Present Illness:
___ woman on anticoagulation with L breast IDC Grade 3 
now s/p L breast lumpectomy and SLNB with left breast swelling 
and pain concerning for a hematoma. 
 
Past Medical History:
Dyslipidemia, varicose veins (R>L) s/p ligation, COPD, OSA 
(+CPap), recent URI (received course of Zithromax), bilateral 
PEs (___), antiphospholipid antibody syndrome (on lifelong 
anticoagulation), T2DM (last A1C 6.2 on ___, cerebral 
aneurysm (followed by Dr. ___, unchanged), GERD, 
diverticulosis, h/o colon polyps, depression, s/p right CMC 
joint arthroplasty, b/l rotator cuff repair, excision right ___ 
digit mass, CCY w/stone & pancreatic duct exploration (___), 
hysterectomy, tonsillectomy 
 
Social History:
___
Family History:
No family hx of DVT or PE, two sisters have atrial fibrillation. 
 

 
Physical Exam:
Physical Exam:
VS: ___ 0313 Temp: 98.2 PO BP: 98/62 HR: 79 RR: 18 O2 sat:
95% O2 delivery: RA 
GEN: NAD, pleasant, conversant 
HEENT: NCAT, EOMI, sclera anicteric
CV: RRR
PULM: no increased work of breathing, comfortable on RA
BREAST: L breast with dependent ecchymosis, mildly ttp inferior
breast, incision C/D/I. JP drain with serosanguineous output. 
ABD: soft, non-tender, non-distended, no masses or hernia
EXT: Warm, well-perfused, no edema, no tenderness 
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
 
Pertinent Results:
___ 07:33AM BLOOD WBC-4.8 RBC-2.86* Hgb-8.6* Hct-27.2* 
MCV-95 MCH-30.1 MCHC-31.6* RDW-14.7 RDWSD-48.7* Plt ___
___ 07:33AM BLOOD ___ PTT-26.2 ___
___ 07:33AM BLOOD Glucose-130* UreaN-7 Creat-0.8 Na-141 
K-4.2 Cl-101 HCO3-31 AnGap-9*
___ 07:33AM BLOOD Calcium-8.2* Phos-3.8 Mg-2.0

EXAMINATION:  CTA CHEST WITH CONTRAST  
COMPARISON:  Chest CT dated ___. 
  
FINDINGS:  
  
HEART AND VASCULATURE: There is no central pulmonary embolism.  
The thoracic 
aorta is normal in caliber without evidence of dissection or 
intramural 
hematoma.  The heart, pericardium, and great vessels are within 
normal limits. 
No pericardial effusion is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: There is a 8.8 x 5.8 x 9.8 cm 
collection in the 
left breast, with density measuring 39 Hounsfield units, 
consistent with 
hematoma.  There are few foci of air within the collection, 
likely from prior 
aspiration, as well as few punctate hyperdensities at the 
periphery.  No 
axillary, mediastinal, or hilar lymphadenopathy is present.  The 
right axilla 
is not included on the study.  No mediastinal mass. 
  
PLEURAL SPACES: No pleural effusion or pneumothorax. 
  
LUNGS/AIRWAYS: Partially visualized lungs are clear without 
masses or areas of 
parenchymal opacification.  The airways are patent to the level 
of the 
segmental bronchi bilaterally. 
  
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality. 
  
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
  
IMPRESSION:  
  
8.8 x 5.8 x 9.8 cm left breast hematoma, with no evidence of 
active bleed.  
Please note, timing was suboptimal as the patient needed to be 
re-scanned due 
to incomplete field-of-view on initial images, however, the 
density of the 
collection was unchanged on all series. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman who was admitted to the 
breast service following a left breast lumpectomy for invasive 
carcinoma performed on ___. She presented with a recurrent 
left breast hematoma after it was evacuated by needle aspiration 
in clinic on ___. She was admitted for observation and 
surgical evacuation of her hematoma. 

On ___ she was brought to the operating room for evacuation 
of the left ___ hematoma and placement of a surgical drain. 
Hospital course as detailed below:

Neuro: pain was controlled with oral pain medication including 
acetaminophen and tramadol. 

___: Vital signs were monitored per protocol. She was continued 
on her home medications. 

Resp: she was continued on her home albuterol medications

FEN/GI: she was continued on a regular diet throughout her 
admission. She was briefly made NPO for the operating room and 
hydrated with IV fluids in the perioperative period. 

GU: She voided without issue throughout her hospital course

Heme: H/H was closely monitored with daily labs and found to be 
stable. Her home anticoagulation was held during her hospital 
course. She was resumed on her home dose of warfarin on 
discharge without a lovenox bridge. She remained on compression 
boots during her hospital course to prevent DVTs.

ID: She was given ancef 2gm IV Q8hrs for prophylaxis, she 
remained afebrile and did not develop a leukocytosis during her 
hospital course. 

Endo: Due to a history of metabolic syndrome and pre-diabetes 
she was kept on a constant carbohydrate diet. 

On the day of discharge she was tolerating a regular diet w/o 
nausea or emesis. She was ambulating independently. Her pain was 
controlled with oral pain medications. She was afebrile and did 
not have a leukocytosis, all antibiotics were discontinued. She 
was discharged home with ___ for drain management and close 
follow up with Dr. ___ in clinic for drain removal. She 
will also follow up with Dr. ___ in clinic in early ___ 
for routine follow up. 

 
Medications on Admission:
Active Medication list as of ___:
 
Medications - Prescription
ALBUTEROL SULFATE - albuterol sulfate 2.5 mg/3 mL (0.083 %)
solution for nebulization. 3 ml inhalation four times a day as
needed for cough, wheeze
ALBUTEROL SULFATE [PROAIR HFA] - ProAir HFA 90 mcg/actuation
aerosol inhaler. 2 puffs inhalation q4-6 hours as needed for
cough/wheeze
ATORVASTATIN - atorvastatin 40 mg tablet. 1 (One) tablet(s) by
mouth at bedtime -  (Prescribed by Other Provider; Dose
adjustment - no new Rx)
ENOXAPARIN - enoxaparin 100 mg/mL subcutaneous syringe. 100 mg 
SC
twice daily approximately 12 hours apart (will start ___,
last dose ___ AM). -  (Prescribed by Other Provider; Dose
adjustment - no new Rx)
ERYTHROMYCIN - erythromycin 5 mg/gram (0.5 %) eye ointment. 
Apply
___ inch affected eye four times a day
FUROSEMIDE - furosemide 20 mg tablet. ___ tablet(s) by mouth
once a day as needed for leg swelling
HYDROMORPHONE - hydromorphone 2 mg tablet. ___ tablet(s) by
mouth every four (4) hours as needed for severe pain do not 
drink
alcohol or drive while taking this medication
NEBULIZER AND COMPRESSOR [PORTABLE NEBULIZER SYSTEM] - Portable
Nebulizer System. Use with albuterol nebulizer soln four times a
day as needed for cough/wheeze
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. TAKE 1
CAPSULE TWICE DAILY FOR GASTROESOPHAGEAL REFLUXDISEASE
SERTRALINE - sertraline 100 mg tablet. 1.5 tablet(s) by mouth
once a day
TRAMADOL - tramadol 50 mg tablet. one tablet(s) by mouth three
times a day
TRAZODONE - trazodone 50 mg tablet. 1 tablet(s) by mouth at
bedtime as needed for insomia
WARFARIN - warfarin 5 mg tablet. 1 (One) tablet(s) by mouth 2
times a ___, ___ tabs po 5 times a week (last dose per
___ clinic ___ -  (Prescribed by Other Provider; Dose
adjustment - no new Rx)
 
Medications - OTC
ACETAMINOPHEN - acetaminophen 500 mg tablet. 2 tablet(s) by 
mouth
3 times daily as needed for pain -  ___ DC med rec)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
2,000
unit tablet. 1 tablet(s) by mouth once a day -  (OTC)
POLYETHYLENE GLYCOL 3350 [MIRALAX] - Miralax 17 gram/dose oral
powder. 1 powder(s) by mouth once a day as needed for
constipation -  (Prescribed by Other Provider; Dose adjustment -
no new Rx)
SENNOSIDES [SENNA] - senna 8.6 mg tablet. 1 tablet(s) by mouth
once a day as needed for constipation -  (OTC)

 
Discharge Medications:
1.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg 1 tablet(s) by mouth Q4hr prn Disp #*7 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM  
3.  Docusate Sodium 100 mg PO BID  
4.  Omeprazole 20 mg PO BID  
5.  Senna 17.2 mg PO HS  
6.  Sertraline 150 mg PO DAILY  
7.  TraZODone 50 mg PO QHS:PRN sleep  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
breast hematoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care:  
1. You may keep your incisions open to air or covered with a 
clean, sterile gauze that you change daily.
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. Your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
5. You may wear a surgical bra or soft, loose camisole for 
comfort.  
6. Do not shower while your drain is in place. 
7. The Dermabond skin glue will begin to flake off in about ___ 
days.  

Activity:  
1. You may resume your regular diet.  
2. Walk several times a day.  
3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery. 

Medications:  
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .  
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.  
3. Take prescription pain medications for pain not relieved by 
Tylenol.  
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  

Call the office IMMEDIATELY if you have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if:  
* If you are vomiting and cannot keep in fluids or your 
medications.  
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
* Any serious change in your symptoms, or any new symptoms that 
concern you.  

ANTICOAGULATION:
You should begin taking your home warfarin dose this evening 
(___) and resume taking warfarin at your regular scheduled 
doses. You will not need a bridge therapy to begin warfarin. 

DRAIN DISCHARGE INSTRUCTIONS  
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.  
Please assist patient with drain care. A daily log of individual 
drain outputs should be maintained and brought with patient to 
follow up appointment with your surgeon.

 
Followup Instructions:
___